2147-11-05 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2147-11-4**] 08:00 AM
 INVASIVE VENTILATION - STOP [**2147-11-4**] 04:49 PM
     * extubated after MS improved
     * hyponatremic to Na 120 -> restricted PO fluids and re-checked labs
       -> Na 122
     * patient stable overnight
     * still to do: auto cpap v sleep study, consider re-image head
     * KUB with air-fluid levels
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-5**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 112 (79 - 112) bpm
   BP: 116/67(78) {86/40(51) - 138/82(95)} mmHg
   RR: 16 (9 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.6 kg (admission): 78.6 kg
                  Total In:
                                                                    680 mL
                                                                    270 mL
   PO:
                                                                    270 mL
                                                                    270 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    730 mL
                                                                    135 mL
   Urine:
                                                                    730 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 1,022 (979 - 1,069) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.51/24/292/17/-1
   Ve: 8.7 L/min
   PaO2 / FiO2: 973
   Physical Examination
   General Appearance: intubated
   Eyes / Conjunctiva: PERRL, Pupils dilated, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at the bases), course breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended but soft.
   Extremities: Right: Absent, Left: Absent
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful,
   Labs / Radiology
   131 K/uL
   9.7 g/dL
   114 mg/dL
   1.1 mg/dL
   17 mEq/L
   3.6 mEq/L
   29 mg/dL
   98 mEq/L
   125 mEq/L
   28.8 %
   10.9 K/uL
        [image002.jpg]
                            [**2147-11-4**]  09:34 AM
                            [**2147-11-4**]  12:56 PM
                            [**2147-11-4**]  09:18 PM
                            [**2147-11-5**]  03:19 AM
   WBC
   10.9
   Hct
   28.8
   Plt
   131
   Cr
   1.1
   1.0
   1.1
   TCO2
   20
   Glucose
   98
   107
   114
   Other labs: PT / PTT / INR:21.9/76.0/2.1, ALT / AST:89/164, Alk Phos /
   T Bili:150/8.3, Albumin:2.9 g/dL, LDH:328 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: 41 yo M with pulmonary hypertension, ESLD on transplant list with
   Hep C cirrhosis, alcoholic cirrhosis, hypothyroidism who presents with
   his third episode of altered mental status requiring intubation for
   airway protection.
   # Abdominal pain: KUB with air fluid levels concerning for SBO and
   patient had no stools x 24 hours.  Made NPO including meds & CT scan to
   check for SBO.  After drinking contrast patient had large volume stool
   output.  CT scan preliminarily no SBO, but ascities present.  Abdominal
   pain now resolved after BMs.  Will advance diet to clears then as
   tolerated.
   # Recurrent altered mental status: Mental status currently improved.
   DDX includes infection (less likely given this is the third episode in
   the last few weeks and work up for infection has been negative,
   currently no leukocytosis or fevers), stroke or head bleed (unlikely
   for similar reason and prior CT x2 and MRI brain all negative),
   encephalopathy (likely), hyponatremia (could be contributing given
   sodium of 120 is lower than he has been given he restarted diuretics
   yesterday), sleep disorder (given all episodes occur first thing in the
   AM).
   -for hepatic encephalopathy- dose lactulose q2hrs until bowel movements
   then back down with goal bowel movements 5-6 per day, continue
   rifaximine
   -for hyponatremia- improving, hold diuretics, check pm lytes
   -sleep disorder- continuous oxygen monitoring, ABG when awake and
   extubated for baseline. sleep study needed but may not be able to do in
   house on the weekend. Consider auto titrating CPAP.
   -infection- unlikely but could consider diagnostic para if not
   improving. Two diagnostic [**Doctor First Name 3619**] this admission were negative
   # alkylosis: Would think with altered mental status, that his CO2 would
   be high causing an acidosis not alkylosis with low CO2. Could imply a
   sleep disturbance as cause. See above.
   -monitor ABG
   -currently changing to PS ventilation and will resend ABG in 30 mins.
   -ween vent as tolerated.
   -has been extubated quickly on prior episodes.
   # ESLD: Hep C and alcohol cirrhosis.
   -continue lactulose as above, continue rifaximine
   -hold diuretics
   -continue ppx cipro for SBP
   -follow up hepatology recs
   # Pulmonary HTN: continue sildenafil and iloprost.
   # Hypothyroidism: continue levothyroxine
   # FEN: Clears advance to full liquids for now. Monitor lytes as above
   # PPX: heparin SQ for DVT ppx, PPI per home reg, bowel reg as above
   # Code: full
   # communication: mother
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-11-4**] 08:00 AM
   22 Gauge - [**2147-11-4**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-11-05 08:38:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2147-11-4**] 08:00 AM
 INVASIVE VENTILATION - STOP [**2147-11-4**] 04:49 PM
   Extubated well
   Abdominal pain this AM and KUB concerning for SBO versus ileus. Plan
   for abd CT and Surgery consulted.
   History obtained from Patient
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Lactulose,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2147-11-5**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 107 (79 - 112) bpm
   BP: 110/65(75) {86/40(51) - 126/67(78)} mmHg
   RR: 14 (9 - 20) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.6 kg (admission): 78.6 kg
                  Total In:
                                                                    680 mL
                                                                    330 mL
   PO:
                                                                    270 mL
                                                                    330 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    730 mL
                                                                    260 mL
   Urine:
                                                                    730 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,022 (979 - 1,069) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.51/24/292/17/-1
   Ve: 8.7 L/min
   PaO2 / FiO2: 973
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Distended, Tender: , hypoactive bowel sounds
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   131 K/uL
   114 mg/dL
   1.1 mg/dL
   17 mEq/L
   3.6 mEq/L
   29 mg/dL
   98 mEq/L
   125 mEq/L
   28.8 %
   10.9 K/uL
        [image002.jpg]
                            [**2147-11-4**]  09:34 AM
                            [**2147-11-4**]  12:56 PM
                            [**2147-11-4**]  09:18 PM
                            [**2147-11-5**]  03:19 AM
   WBC
   10.9
   Hct
   28.8
   Plt
   131
   Cr
   1.1
   1.0
   1.1
   TCO2
   20
   Glucose
   98
   107
   114
   Other labs: PT / PTT / INR:21.9/76.0/2.1, ALT / AST:89/164, Alk Phos /
   T Bili:150/8.3, Albumin:2.9 g/dL, LDH:328 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 .H/O ALKALOSIS, RESPIRATORY
 HEPATIC ENCEPHALOPATHY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 KNOWLEDGE DEFICIT
   1.       Ileus/SBO: KUB concerning, and he has abdominal pain, will get
   abd CT and surgical consult
 holding off on NGT at present as not
   vomiting and does have known varices, but will place if
   2.       pHTN: due to NPO status not getting sildenafil, so needs to
   take in haled iloprost and will restart sildenafil ASAP
   3.       HypoNatremia: low urine Na, likely dry, start NS at 100 cc/hr
   amd repeat Na this afternoon to make sure
   4.       Cirrhosis: will give pr lactulose once abd CT does not show
   complete obstruction
   ICU Care
   Nutrition: NPO for SBO at present will advance
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-11-4**] 08:00 AM
   22 Gauge - [**2147-11-4**] 08:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with pt and hepatology
   Code status: Full code
   Disposition :ICU
   Total time spent:

2147-11-06 06:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CT: no SBO, + ascites
   - hepatology - do not tap unless painful
   - abd px disappeared after 1800 cc stool output
   - levothyroxin & cipro changed back to PO
   - Iloprost started
   - Needs sleep study
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2147-11-5**] 11:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-11-6**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-6**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 103 (85 - 113) bpm
   BP: 101/49(61) {88/37(50) - 136/72(84)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.6 kg (admission): 78.6 kg
                  Total In:
                                                                  2,590 mL
                                                                    240 mL
   PO:
                                                                  1,990 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                  3,670 mL
                                                                    180 mL
   Urine:
                                                                  1,070 mL
                                                                    180 mL
   NG:
   Stool:
                                                                  2,600 mL
   Drains:
   Balance:
                                                                 -1,080 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: intubated
   Eyes / Conjunctiva: PERRL, Pupils dilated, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at the bases), course breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended but soft.
   Extremities: Right: Absent, Left: Absent
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful,
   Labs / Radiology
   123 K/uL
   9.4 g/dL
   105 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   22 mg/dL
   98 mEq/L
   122 mEq/L
   27.9 %
   10.6 K/uL
        [image002.jpg]
                            [**2147-11-4**]  09:34 AM
                            [**2147-11-4**]  12:56 PM
                            [**2147-11-4**]  09:18 PM
                            [**2147-11-5**]  03:19 AM
                            [**2147-11-5**]  07:44 PM
                            [**2147-11-6**]  04:42 AM
   WBC
   10.9
   10.6
   Hct
   28.8
   27.9
   Plt
   131
   123
   Cr
   1.1
   1.0
   1.1
   0.8
   0.8
   TCO2
   20
   Glucose
   98
   107
   114
   143
   105
   Other labs: PT / PTT / INR:22.2/77.7/2.1, ALT / AST:86/150, Alk Phos /
   T Bili:142/7.2, Albumin:2.8 g/dL, LDH:310 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   A/P: 41 yo M with pulmonary hypertension, ESLD on transplant list with
   Hep C cirrhosis, alcoholic cirrhosis, hypothyroidism who presents with
   his third episode of altered mental status requiring intubation for
   airway protection.
   # Abdominal pain: KUB with air fluid levels concerning for SBO and
   patient had no stools x 24 hours.  Made NPO including meds & CT scan to
   check for SBO.  After drinking contrast patient had large volume stool
   output.  CT scan preliminarily no SBO, but ascities present.  Abdominal
   pain now resolved after BMs.  Will advance diet to clears then as
   tolerated.
   # Recurrent altered mental status: Mental status currently improved.
   DDX includes infection (less likely given this is the third episode in
   the last few weeks and work up for infection has been negative,
   currently no leukocytosis or fevers), stroke or head bleed (unlikely
   for similar reason and prior CT x2 and MRI brain all negative),
   encephalopathy (likely), hyponatremia (could be contributing given
   sodium of 120 is lower than he has been given he restarted diuretics
   yesterday), sleep disorder (given all episodes occur first thing in the
   AM).
   -for hepatic encephalopathy- dose lactulose q2hrs until bowel movements
   then back down with goal bowel movements 5-6 per day, continue
   rifaximine
   -for hyponatremia- improving, hold diuretics, check pm lytes
   -sleep disorder- continuous oxygen monitoring, ABG when awake and
   extubated for baseline. sleep study needed but may not be able to do in
   house on the weekend. Consider auto titrating CPAP.
   -infection- unlikely but could consider diagnostic para if not
   improving. Two diagnostic [**Doctor First Name 3619**] this admission were negative
   # alkylosis: Would think with altered mental status, that his CO2 would
   be high causing an acidosis not alkylosis with low CO2. Could imply a
   sleep disturbance as cause. See above.
   -monitor ABG
   -currently changing to PS ventilation and will resend ABG in 30 mins.
   -ween vent as tolerated.
   -has been extubated quickly on prior episodes.
   # ESLD: Hep C and alcohol cirrhosis.
   -continue lactulose as above, continue rifaximine
   -hold diuretics
   -continue ppx cipro for SBP
   -follow up hepatology recs
   # Pulmonary HTN: continue sildenafil and iloprost.
   # Hypothyroidism: continue levothyroxine
   # FEN: Clears advance to full liquids for now. Monitor lytes as above
   # PPX: heparin SQ for DVT ppx, PPI per home reg, bowel reg as above
   # Code: full
   # communication: mother
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-11-5**] 04:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-11-06 08:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with large BM and CT scan without evidence of obstruction
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2147-11-5**] 11:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-11-6**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2147-11-6**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 96 (85 - 113) bpm
   BP: 103/53(65) {88/37(50) - 136/72(84)} mmHg
   RR: 9 (9 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.6 kg (admission): 78.6 kg
                  Total In:
                                                                  2,590 mL
                                                                    240 mL
   PO:
                                                                  1,990 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                  3,670 mL
                                                                    240 mL
   Urine:
                                                                  1,070 mL
                                                                    240 mL
   NG:
   Stool:
                                                                  2,600 mL
   Drains:
   Balance:
                                                                 -1,080 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   123 K/uL
   105 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.1 mEq/L
   22 mg/dL
   98 mEq/L
   122 mEq/L
   27.9 %
   10.6 K/uL
        [image002.jpg]
                            [**2147-11-4**]  09:34 AM
                            [**2147-11-4**]  12:56 PM
                            [**2147-11-4**]  09:18 PM
                            [**2147-11-5**]  03:19 AM
                            [**2147-11-5**]  07:44 PM
                            [**2147-11-6**]  04:42 AM
   WBC
   10.9
   10.6
   Hct
   28.8
   27.9
   Plt
   131
   123
   Cr
   1.1
   1.0
   1.1
   0.8
   0.8
   TCO2
   20
   Glucose
   98
   107
   114
   143
   105
   Other labs: PT / PTT / INR:22.2/77.7/2.1, ALT / AST:86/150, Alk Phos /
   T Bili:142/7.2, Albumin:2.8 g/dL, LDH:310 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   41 yo male with known history of cirrhosis and now s/p extubation and
   with rapid move to extubation and now with improving mental status in
   the setting of lactulose therapy and return to active bowel movements.
   Encephalopathy-
   -Lactulose continuing
   -Monitor bowel movement frequency
   -No evidence of new or evolving infection
   Ascites-
   -Cipro to continue for prophylaxis
   -Tap of fluid for any recurrent fevers seen
   Respiratory Failure-
   -Monitor O/N with limited PSG upon the floor
   -In the setting of pulmonary HTN hypoxemia may be worsened and there is
   not clear diagnosis or exclusion of hepato-pulmonary syndrome
   -REM sleep may be an area of vulnerability and full night sleep study
   would be of interest
   -BIPAP if worsening seen
   Pulmonary Hypertension-
   -Likely porto-pulmonary HTN
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O ALKALOSIS, RESPIRATORY
 HEPATIC ENCEPHALOPATHY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-11-5**] 04:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes